US07435837B2
Treatment of (±)-[7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (3.55 g, 12.9 mmol) with diisopropylethylamine (2.5 g, 19.4 mmol) and benzyl chloroformate (2.42 g, 14.2 mmol) generally according to the procedure described for Intermediate 12 provided 4.1 g (85%) of (±)-benzyl[7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate as a clear oil Rf=0.64 (silica, ethyl acetate:hexanes 1:4); Anal. calcd. for C24H23F4NO3: C, 77.19; H, 6.21; N, 3.75. Found: C, 76.95; H, 6.18; N, 3.53. Chiral HPLC separation of (±)-benzyl[7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate (Chiralcel OD, isopropanol:hexane 1:4) provided two fractions. Fraction 1 (Rt=7.285 min, isopropanol:hexane 1:4); Fraction 2 (Rt=9.361 min, Chiralcel OD, isopropanol:hexane 1:4).

reactant | (±)-[7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 12.9 mmol, 3.55 g | CC1=C(C=CC=C1)C1=CC=CC=2CC(OC21)CN | C16H17NO
reactant | diisopropylethylamine | 19.4 mmol, 2.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 14.2 mmol, 2.42 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl[7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate | 4.1 g, 85% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)C)=O | C24H23NO3
